*
.SUBCKT BSR43 1 2 3
* housing parasitics
LB 2 22 3.454E-09
LE 3 333 3.543E-09
LC 1 11 1E-13
CBCG 22 11 1.705E-13
CBEG 22 333 6.5E-14
CCEG 11 333 1.705E-13
Q1 11 22 333 QBSR43
D1 22 11 DIODE
*
* The diode does not reflect a physical
* device but improves only modeling
* in the reverse mode of operation
*
.MODEL QBSR43 NPN(
+ IS = 4.638E-14
+ NF = 0.9949
+ ISE = 3.954E-16
+ NE = 1.25
+ BF = 145.2
+ IKF = 0.55
+ VAF = 91
+ NR = 0.9994
+ ISC = 2.3E-10
+ NC = 1.891
+ BR = 2.821
+ IKR = 0.15
+ VAR = 55
+ RB = 55
+ IRB = 2E-06
+ RBM = 0.4
+ RE = 0.391
+ RC = 0.02
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.404E-11
+ VJE = 0.7161
+ MJE = 0.3543
+ TF = 7.3E-10
+ XTF = 9
+ VTF = 5
+ ITF = 1.6
+ PTF = 0
+ CJC = 2.79E-11
+ VJC = 0.5208
+ MJC = 0.4256
+ XCJC = 1
+ TR = 1.2E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78 )
*
.MODEL DIODE D (
+ IS = 9.8E-11
+ N = 1.05
+ BV = 1000
+ IBV = 0.001
+ RS = 80
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3)
.ENDS
*
